US07122665B2
As shown in Scheme 5 above, 2,6-dicloropyrimidine (1 g, 5.29 mmol) was dissolved in morpholine (5 mL) in a sealed tube. The tube was heated to 120° C. for 5 hours then cooled to room temperature. Water (100 mL) was added and the resulting precipitate was filtered and washed with water to give 2,6-di-morpholin-4-yl-7H-purine (1.33 g, 87%). 2,6-Di-morpholin-4-yl-7H-purine (1.33 g, 4.58 mmol) was dissolved in DMF (50 mL). NaH (0.22 g, 5.50 mmol, 60% dispersion in oil) was added and the reaction was stirred at room temperature for 30 min. 2-(Trimethylsilyl)ethoxymethyl chloride (0.92 g, 5.50 mmol) was added dropwisely and the reaction was stirred for 18 h at room temperature. Water (200 mL) then ethyl aceate (200 mL) were added. The ethyl acetate extracts were washed with water (3×100 mL), dried over MgSO4, filtered and evaporated to dryness. The resulting residue was purified by silicagel column chromatography eluting with a gradient of 1:1 ethyl aceate to ethyl acetate to produce 2,6-Di-morpholin-4-yl-7-(2-trimethylsilanylethoxymethyl)-7H-purine (1.51 g, 78% yield).

reactant | 2,6-Di-morpholin-4-yl-7H-purine | 4.58 mmol, 1.33 g | N1(CCOCC1)C1=NC(=C2NC=NC2=N1)N1CCOCC1 | C13H18N6O2
reactant | NaH | 5.50 mmol, 0.22 g | [H-].[Na+]
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 5.50 mmol, 0.92 g | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | Water | 200 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl aceate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2,6-Di-morpholin-4-yl-7-(2-trimethylsilanylethoxymethyl)-7H-purine | 1.51 g, 78% yield | N1(CCOCC1)C1=NC(=C2N(C=NC2=N1)COCC[Si](C)(C)C)N1CCOCC1 | C19H32N6O3Si
